US07888513B2
Under an argon atmosphere, a mixture of 3-phenylpropionic acid (3.0 mmol), (L)-valinol (3.6 mmol), Zn4(OCOCF3)6O (0.15 mmol) and chlorobenzene (5 mL) was heated under reflux for 12 hours. From the resulting solution, the solvent was removed using an evaporator, and the residues were purified by silica gel column chromatography (hexane/ethyl acetate=10/1 (V/V)) to give (S)-4-isopropyl-2-(2-phenylethyl)-1,3-oxazoline in 86% yield.

reactant | 3-phenylpropionic acid | 3.0 mmol | C1(=CC=CC=C1)CCC(=O)O | C9H10O2
reactant | (L)-valinol | 3.6 mmol | N[C@@H](C(C)C)CO | C5H13NO
solvent | chlorobenzene | 5 mL | ClC1=CC=CC=C1 | C6H5Cl
product | (S)-4-isopropyl-2-(2-phenylethyl)-1,3-oxazoline | 86% yield | C(C)(C)[C@@H]1N=C(OC1)CCC1=CC=CC=C1 | C14H19NO
